US07994203B2
A solution of 1-(6-methoxy-2-methyl-pyridin-3-yl)-propan-1-ol (1.15 g, 6.35 mmol) in DCM (20 ml) is treated with Dess-Martin periodinane (2.96 g, 6.98 mmol) and the resulting suspension stirred at RT overnight. The reaction mixture is diluted with DCM (80 ml) and sat NaHCO3 (50 ml) added. The organic layer is separated and washed with H2O (20 ml), brine (20 ml), dried (MgSO4) and concentrated in vacuo. The resulting residue is purified by chromatography on silica gel (2×70 ml) using 50% EtOAc/iso-hexane to give 1-(6-methoxy-2-methyl-pyridin-3-yl)-propan-1-one as a white solid. MS: m/z 180.2 [M+H]+.

reactant | 1-(6-methoxy-2-methyl-pyridin-3-yl)-propan-1-ol | 6.35 mmol, 1.15 g | COC1=CC=C(C(=N1)C)C(CC)O | C10H15NO2
reactant | Dess-Martin periodinane | 6.98 mmol, 2.96 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | NaHCO3 | 50 ml | C(=O)(O)[O-].[Na+]
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 80 ml | C(Cl)Cl | CH2Cl2
product | 1-(6-methoxy-2-methyl-pyridin-3-yl)-propan-1-one | COC1=CC=C(C(=N1)C)C(CC)=O | C10H13NO2
